US07674795B2
The procedure used in Example 6 is followed, starting from 1.95 g of 4-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, and 285 mg of Raney nickel in 40 ml of ethanol and 40 ml of tetrahydrofuran for 16 hours at 60° C. under an initial hydrogen pressure of one bar. After filtration of the catalyst, concentration to dryness under reduced pressure and purification by formation of a paste with diisopropyl ether, in this way we obtain 1.7 g of 4-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-ylamine, in the form of an orange powder, which is used as it is in the following stage, with the following characteristics:

reactant | 4-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one oxime | 1.95 g | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C=C1N1CCN(CC1)C | C25H22FN5O
catalyst | Raney nickel | 285 mg | [Ni] | Ni
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-ylamine | 1.7 g | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C=C1N1CCN(CC1)C | C25H24FN5
